* U:\S6\App1\Dev\LTspice\2.asc
V1 VPP 0 10
V2 0 VMM 10
R10 E VMM 0.01
D1 VPP vo3 L1IZ0850
Q2 vo3 N001 E 0 2N3055A
Q3 vo3 Vin N001 0 2N2222
R11 N001 E 200
VBE Vin E 5
VCE vo3 E 5
.model D D
.lib C:\Users\nikb2701\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nikb2701\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib ALD1115_UdeS.lib
.lib 2N3055A_UdeS.lib
;.op
;.tran .2m
;.ac dec 100 1 1meg
.dc VCE 0 20 0.02 VBE 0.6 0.63 0.001
.model L1IZ0850 D( mfg=S6eAPP1 type=LED Is=4.1813071601760576e-19 Rs=0.25 N=3.4 Vj=1.2716439573697156 Cjo=7.576811894451617e-10)
.backanno
.end
